US04703052
A. 6-(1,3-Dioxolan-2-yl)-1,1-dioxothiachroman
To a mixture of 3.0 g (14.3 mmole) 6-formyl-1,1dioxothiachroman and 140 ml toluene was added 15.9 ml ethylene glycol and 0.66 g (3.5 mmole) p-toluenesulfonic acid hydrate. The mixture was heated at reflux for 18 hours or until no further water was collected in the attached water separator (Dean-Stark trap). The reaction mixture was cooled, diluted with ethyl acetate, washed with water, sodium bicarbonate, water again, brine and dried (MgSO4). Evaporation of solvent in vacuo gave 3.73 g of residual oil which solidified on standing. Mass spectrum (m/e): 254 (M+).

reactant | 6-formyl-1,1dioxothiachroman | 14.3 mmole, 3.0 g | C(=O)C=1C=C2CCCS(C2=CC1)(=O)=O | C10H10O3S
reactant | toluene | 140 ml | C1(=CC=CC=C1)C | C7H8
reactant | ethylene glycol | 15.9 ml | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid hydrate | 3.5 mmole, 0.66 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | water | O | H2O
product | 6-(1,3-Dioxolan-2-yl)-1,1-dioxothiachroman | 3.73 g | O1C(OCC1)C=1C=C2CCCS(C2=CC1)(=O)=O | C12H14O4S
